US08080669B2
Preparation of 4-[2-(6-Chloro-2-methyl-phenylamino)-oxazol-5-yl]-benzonitrile
The same procedure outlined above in the preparation 4-[2-(5-Amino-2-methyl-phenylamino)-oxazol-5-yl]-benzonitrile was used. However N-(6-chloro-2-methyl-phenyl)-acetamide was used instead N-(5-amino-2-methyl-phenyl)-acetamide. Yield=89%.

reactant | 4-[2-(5-Amino-2-methyl-phenylamino)-oxazol-5-yl]-benzonitrile | NC=1C=CC(=C(C1)NC=1OC(=CN1)C1=CC=C(C#N)C=C1)C | C17H14N4O
reactant | N-(6-chloro-2-methyl-phenyl)-acetamide | ClC1=CC=CC(=C1NC(C)=O)C | C9H10ClNO
reactant | N-(5-amino-2-methyl-phenyl)-acetamide | NC=1C=CC(=C(C1)NC(C)=O)C | C9H12N2O
product | 4-[2-(6-Chloro-2-methyl-phenylamino)-oxazol-5-yl]-benzonitrile | Yield=89% | ClC1=CC=CC(=C1NC=1OC(=CN1)C1=CC=C(C#N)C=C1)C | C17H12ClN3O
